US05994378
A mixture of 5-benzyloxy-1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}indole-3-acetic acid (3.0 g), 10% Pd--C (0.6 g) and ammonium formate (2.0 g) in a mixed solvents of ethanol (60 ml) and water (6 ml) was stirred under reflux for 18 hours. After removal of the catalysts by filtration, the filtrate was concentrated under reduced pressure. The residue was dissolved in 10% hydrogen chloride in methanol (200 ml) and the mixture was stored in refrigerator for 2 days. The resulting solution was concentrated under reduced pressure and the residue was partitioned between aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-hydroxyindole-3-acetate (1.76 g).

reactant | 5-benzyloxy-1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}indole-3-acetic acid | 3.0 g | C(C1=CC=CC=C1)OC=1C=C2C(=CN(C2=CC1)CC=1C=CC2=C(C=C(O2)C=2SC=C(N2)C(C)(C)C)C1)CC(=O)O | C33H30N2O4S
reactant | ammonium formate | 2.0 g | C(=O)[O-].[NH4+]
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
product | methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-hydroxyindole-3-acetate | 1.76 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)O)CC(=O)OC | C27H26N2O4S
